US07592456B2
Step 2: (1-(3-{[6-(4-Fluorophenyl)naphthalen-2-yl]sulfonyl}pyridin-4-yl)cyclobutanol
Prepared according to the method of Example 6 Step 4 using 1-(3-bromopyridin-4-yl)cyclobutanol and sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate. 1H NMR (500 MHz, CDCl3): δ 8.91 (1H, s), 8.77 (1H, d, J=4.9 Hz), 8.54 (1H, s), 8.08-8.02 (3H, m), 7.88-7.82 (2H, m), 7.69 (2H, dd, J=5.2, 8.7 Hz), 7.42 (1H, d, J=5.1 Hz), 7.21 (2H, t, J=8.6 Hz), 4.74 (1H, s), 2.59-2.45 (4H, m), 2.35-2.27 (1H, m), 1.76-1.68 (1H, m). m/z (ES+) 434 [MH+].

reactant | 1-(3-bromopyridin-4-yl)cyclobutanol | BrC=1C=NC=CC1C1(CCC1)O | C9H10BrNO
reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
product | 1-(3-{[6-(4-Fluorophenyl)naphthalen-2-yl]sulfonyl}pyridin-4-yl)cyclobutanol | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C=1C=NC=CC1C1(CCC1)O | C25H20FNO3S
